US06534445B1
0.52 g of methanesulfonamide is introduced into a tetrahydrofuran suspension of 0.24 g of 55% sodium hydride in oil. After the evolution of hydrogen has ceased, 1.5 g (5 mmol) of ethyl 2-bromo-6-trifluoromethylnicotinate, 0.3 g (5.2 mmol) of potassium fluoride and a catalytic amount of crown ether and 5 ml of N-methylpyrrolidone are added and the mixture is heated at the boil for 18 hours. The reaction mixture is then partitioned between ethyl acetate and water and freed from organic neutral constituents. The aqueous phase is brought to pH 2.9, extracted 3 times with fresh ethyl acetate, dried and concentrated. A crystalline product, ethyl 2-methanesulfonylamino-6-trifluoromethylnicotinate, is obtained from ether/hexane; 1H-NMR (CDCl3): 10.48, s, NH, 8.49, d, CH, 7.38, d, CH, 4.45, q, CH2, 3.51, s, SO2CH3, 1.42 ppm, t, CH3.

reactant | methanesulfonamide | 0.52 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl 2-bromo-6-trifluoromethylnicotinate | 5 mmol, 1.5 g | BrC1=C(C(=O)OCC)C=CC(=N1)C(F)(F)F | C9H7BrF3NO2
reactant | potassium fluoride | 5.2 mmol, 0.3 g | [F-].[K+]
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2-methanesulfonylamino-6-trifluoromethylnicotinate | CS(=O)(=O)NC1=C(C(=O)OCC)C=CC(=N1)C(F)(F)F | C10H11F3N2O4S
